US07608563B2
In a mixed solvent of 1,4-dioxane (5 mL) and dimethylsulfoxide (5 mL) was dissolved 454 mg (3.24 mmol) of 2-(methylsulfanyl)phenol, to the solution was added 519 mg (4.63 mmol) of potassium tert-butoxide and the mixture was stirred for 35 minutes. To the mixture was added 424 mg (2.57 mmol) of 3,6-dichloropyridazine 1-oxide and the resulting mixture was stirred for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layers were combined, washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel chromatography (Wakogel C-100, eluted with hexane:ethyl acetate=3:1) to obtain 391 mg (1.46 mmol, Yield: 56.8%) of 6-chloro-3-[2-(methylsulfanyl)phenoxy]pyridazine 1-oxide.

reactant | 2-(methylsulfanyl)phenol | 3.24 mmol, 454 mg | CSC1=C(C=CC=C1)O | C7H8OS
reactant | potassium tert-butoxide | 4.63 mmol, 519 mg | CC(C)([O-])C.[K+]
reactant | 3,6-dichloropyridazine 1-oxide | 2.57 mmol, 424 mg | ClC=1N=[N+](C(=CC1)Cl)[O-] | C4H2Cl2N2O
reactant | water | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 6-chloro-3-[2-(methylsulfanyl)phenoxy]pyridazine 1-oxide | 1.46 mmol, 391 mg, Yield: 56.8% | ClC1=CC=C(N=[N+]1[O-])OC1=C(C=CC=C1)SC | C11H9ClN2O2S
